US08629160B2
2-Bromo-1-(thiazol-2-yl)ethanone (52.5 mg, 0.25 mmol) was added portion-wise to a solution of (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate (C19) (100 mg, 0.25 mmol) in EtOAc (2 ml). The reaction mixture was stirred at room temperature overnight. The precipitate was filtered, washed with EtOAc and purified by preparative HPLC (Eluent: CH3CN, H2O) to obtain (R)-3-(2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiazol-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane bromide (42 mg, 27.5% yield).

reactant | 2-Bromo-1-(thiazol-2-yl)ethanone | 0.25 mmol, 52.5 mg | BrCC(=O)C=1SC=CN1 | C5H4BrNOS
reactant | (R)-quinuclidin-3-yl 2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetate | 0.25 mmol, 100 mg | S1C2=C(C(=C1)C(C(=O)O[C@H]1CN3CCC1CC3)NC3=CC=CC=C3)C=CC=C2 | C23H24N2O2S
solvent | EtOAc | 2 ml | CCOC(=O)C | C4H8O2
product | (R)-3-(2-(benzo[b]thiophen-3-yl)-2-(phenylamino)acetoxy)-1-(2-oxo-2-(thiazol-2-yl)ethyl)-1-azoniabicyclo[2.2.2]octane bromide | 42 mg, 27.5% yield | [Br-].S1C2=C(C(=C1)C(C(=O)O[C@H]1C[N+]3(CCC1CC3)CC(C=3SC=CN3)=O)NC3=CC=CC=C3)C=CC=C2 | InChI=1S/C28H28N3O3S2.BrH/c32-23(27-29-12-15-35-27)16-31-13-10-19(11-14-31)24(17-31)34-28(33)26(30-20-6-2-1-3-7-20)22-18-36-25-9-5-4-8-21(22)25;/h1-9,12,15,18-19,24,26,30H,10-11,13-14,16-17H2;1H/q+1;/p-1/t19?,24-,26?,31?;/m0./s1
